US06350892B1
N-Propyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine
A solution of N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine (500 mg, 1.05 mmol), diisopropyl ethylamine (0.35 ml, 2.1 mmol) and 1-iodopropane (0.26 ml, 2.66 mmol) in isopropanol was heated to reflux for 21 h. After cooling to r.t., the mixture was diluted with ethyl acetate and filtered. The filtrate was concentrated in vacuo, and the residue was chromatographed on silica gel (dichloromethane/methanol 98:2 to 95:5) to afford the title compound (0.526 g, 73%) as a colorless oil.

reactant | N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine | 1.05 mmol, 500 mg | COC(CCC1=CC=C(OCCNCCCCCCCCCCCC)C=C1)(C(F)(F)F)OC | C26H44F3NO3
reactant | diisopropyl ethylamine | 2.1 mmol, 0.35 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-iodopropane | 2.66 mmol, 0.26 ml | ICCC | C3H7I
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Propyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine | 0.526 g, 73% | C(CC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)(OC)OC)CCCCCCCCCCCC | C29H50F3NO3
